US07517873B2
To a mixture of 1.10 g (0.00373 mole) of (rac)-2-chloro-9-cyclopentylmethyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-55), 0.35 mL (0.0056 mole) of iodomethane and 15 mL of N,N-dimethyl-formamide at 0 degrees, was added 0.22 g (0.0056 mole) of 60% oil dispersion of sodium hydride. The mixture was stirred at 0 degrees for 2 hours, then partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate. The combined organic phases were washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with hexanes-ethyl acetate (100:0-60:60) to give 1.10 g of (rac)-2-chloro-9-cyclopentylmethyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-55) as white powder. HRMS (ES+) m/z Calcd for C15H21ClN4O+H [(M+H)+]: 309.1477. Found: 309.1476.

reactant | (rac)-2-chloro-9-cyclopentylmethyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00373 mole, 1.10 g | ClC=1N=CC2=C(N(CC(C(N2)=O)C)CC2CCCC2)N1 | C14H19ClN4O
reactant | iodomethane | 0.0056 mole, 0.35 mL | IC | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethyl-formamide | 15 mL | CN(C=O)C | C3H7NO
product | (rac)-2-chloro-9-cyclopentylmethyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 1.10 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)C)CC2CCCC2)N1 | C15H21ClN4O
